US06211199B1
112.2 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(3-(4-(1-(3-carboxypropyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)propyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine hydrochloric acid salt
Combine 1-(3,4,5-trimethoxybenzyl)-3-(3-(4-(1-(3-carboxypropyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)propyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine lithium salt (0.21 g, 0.29 mmol) and methanol (10 mL). Add a solution of hydrochloric acid (0.3 mL, 4 M) in dioxane. After 10 minutes, pour the reaction mixture into diethyl ether (300 mL) and cool to about −30° C. to give a solid. Collect the solid by filtration and dry to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(3-(4-(1-(3-carboxypropyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)propyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine lithium salt | 0.29 mmol, 0.21 g | [Li].COC=1C=C(CN2C(C(CC2)(CC2=CC=C(C=C2)F)CCCN2CCC(CC2)NC2=NC3=C(N2CCCC(=O)O)C=CC=C3)=O)C=C(C1OC)OC
reactant | methanol | 10 mL | CO | CH4O
reactant | hydrochloric acid | 4 M, 0.3 mL | Cl | ClH
reactant | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3,4,5-trimethoxybenzyl)-3-(3-(4-(1-(3-carboxypropyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)propyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine hydrochloric acid salt | Cl.COC=1C=C(CN2C(C(CC2)(CC2=CC=C(C=C2)F)CCCN2CCC(CC2)NC2=NC3=C(N2CCCC(=O)O)C=CC=C3)=O)C=C(C1OC)OC | InChI=1S/C40H50FN5O6.ClH/c1-50-34-24-29(25-35(51-2)37(34)52-3)27-45-23-18-40(38(45)49,26-28-11-13-30(41)14-12-28)17-7-19-44-21-15-31(16-22-44)42-39-43-32-8-4-5-9-33(32)46(39)20-6-10-36(47)48;/h4-5,8-9,11-14,24-25,31H,6-7,10,15-23,26-27H2,1-3H3,(H,42,43)(H,47,48);1H
